US08633313B2
To a solution of crude of 2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridine-3-carbaldehyde (1.0 g, 3.2 mmol) in THF (25 mL) was added methyl magnesium bromide (3.2 mL, 9.6 mmol) at 0° C. The reaction mixture was stirred for 2 h at same temperature. The reaction mixture was quenched with satd solution of ammonium chloride and extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated in vacuo to give 1-(2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethanol: LC-MS (ESI) m/z 329.0 [M+H]+. It was carried on crude for next step.

reactant | 2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridine-3-carbaldehyde | 3.2 mmol, 1.0 g | CS(=O)(=O)C1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C=O | C16H12N2O3S
reactant | methyl magnesium bromide | 9.6 mmol, 3.2 mL | C[Mg]Br
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-(2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethanol | CS(=O)(=O)C1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C(C)O | C17H16N2O3S
